Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Perioral crawling sensation and heaviness in LEFT arm face and 
leg
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness: 
___ year-old RIGTH handed woman with a history of DM, HTN,
dyslipidemia, and vertiginous episodes, who presents after
developing new-onset left-sided (face, arm, and leg) weakness 
and
numbness with perioral tingling and vertigo this morning at 9:30
am. 
She first noted a sensation of heaviness in her left arm, with a
"loss of force" in the left hand. She noted perioral tingling, 
as
if "ants were crawling around the mouth."  She then noted the
room to be spinning.  This was no so unusual, as she has
experienced vertiginous episodes in the past, even without
movement, that can last ___ hours.  She was nauseated, but had 
no
vomiting.  The symptoms peaked in the first hour, and seemed to
improved significantly after she took her medications for
hypertension and vertigo.  She did continue to have reduced
sensation in the left, face, arm, and leg.  She saw her primary
care physician, who referred her to the ER for urgent 
management.

 
Review of Systems:
Denies headache, dysarthria or language difficulties, vision
loss, diplopia, dysphagia, tinnitus, or change in hearing.  No
history of neck pain, trauma, chest pain or palpitations.

 
Past Medical History:
-DM
-HTN
-Dyslipidemia
-Vertigo
-Fibromyalgia
-GERD
-Arthritis
-GERD
-Osteoporosis
 
 
Social History:
___
Family History:
No reported history of stroke
 
Physical Exam:
Vitals: T 98.5 F    BP 171/85   P 70    RR 18    SaO2 97 RA
General: NAD, well-nourished
HEENT: NC/AT, sclerae anicteric, MMM, no exudates in oropharynx
Neck: supple, no nuchal rigidity, no bruits
Lungs: clear to auscultation 
CV: regular rate and rhythm, no MMRG 
Abdomen:  soft, obese, non-tender, non-distended, bowel sounds
present
Ext: warm, no edema, pedal pulses appreciated; right biceps
swollen after infiltration with IV contrast dye
Skin: no rashes
 
Neurologic Examination: 
NIHSS prior to departure to CT scan: 4 (1 for facial weakness, 1
for arm drift, 1 for leg drift, 1 for sensory loss)

Full examination below conducted with aid of interpreter after
return from CT scan.

Mental Status: 
Awake and alert, able to relay history, cooperative with exam,
mildly anxious
Oriented to person, place, time
Attention: can say days of week backward 
Language: fluent, non-dysarthric speech, no paraphasic errors,
naming, comprehension, repetition intact; reading intact 
Memory: registration: ___ items, recall ___ items at 3 minutes 
No evidence of apraxia or neglect 
 
Cranial Nerves: 
Optic disc margins sharp; Visual fields are full to
confrontation. Pupils equally round and reactive to light, 3 to 
2
mm bilaterally.  
Extraocular movements intact, no nystagmus. Facial sensation
intact bilaterally.  Facial movement normal and symmetric. 
Hearing intact to finger rub bilaterally. Palate elevates
midline.  Tongue protrudes midline, no fasciculations.  Trapezii
full strength bilaterally. 
 
Motor: 
Normal bulk and tone throughout. No tremor.
      D T B WE FiF ___ IP  Q  H  TA  ___  
Right ___ 5  5    ___  ___  5   5     
Left  ___ 5  5    ___  ___  5   5     
 
Sensation: No deficits to light touch, pin prick, temperature
(cold), vibration, and proprioception throughout. No extinction
to DSS.
 
Reflexes: B T Br Pa Pl 
Right     ___  2  0 
Left      ___  2  0  
Toes were downgoing bilaterally. 
 
Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally. Normal FFM.
 
Gait:  Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
Data: 
    12.8
10.1>---<281 
     37.0  
 N:59.6 L:32.4 M:6.0 E:1.8 Bas:0.2 

140  ___   AGap=15 
------------< 
3.9  28  0.9  

estGFR: 65 / >75 (click for details)  

Ca: 10.1 Mg: 2.3 P: 4.2
Trop-T: <0.01 MB: 3  

ECHOCARDIOGRAM: 
The left atrium is normal in size. No thrombus/mass is seen in 
the body of the left atrium. No atrial septal defect or patent 
foramen ovale is seen by 2D, color Doppler or saline contrast 
with maneuvers. The estimated right atrial pressure is ___. 
Left ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). No masses or thrombi 
are seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No masses or vegetations are 
seen on the aortic valve. No aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. No mass or vegetation is seen on the mitral 
valve. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

IMPRESSION: No cardiac source of embolism seen.

CT/CTA head and neck/CTP:
Wet read:
"NO EDEMA, NO HEMMORRHAGE OR INFARCTION. nO DEFECT IN Ct
PERFUSION TO SUGGEST ISCHEMIA OR STROKE. NO ANEURYSM OR
THROMBOSIS. MEDIALLY DEVIATED RIGHT INT CAROTID ARTERY. mULTIPLE
NON PATHOLOGICALLY ENLARGED NODES IN THE NECK. FINAL REPORT WIL
BE AVAILABLE AFTER RECONS." 

MRI w/o contrast: Unremarkable appearance of the brain without 
evidence of an acute 
infarction. 

 

 
Brief Hospital Course:
Ms ___ remained stable at the hospital. Her symptoms resolved 
around 7:30 pm (right after she received her CT scan at the ER). 
Her BP was within normal range. She had no further neurological 
deficits. 
We contacted Dr. ___ and discussed the case with him. He 
provided information about the patient's baseline and home 
medications. 
 
Medications on Admission:
htcz 25
motrin 800 
ultram 50 q6 prn
lisinopril 20 
asa 81
zocor 40
prilosec 20
fosamax 70
calcium carb 500 + D bid
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day.  
2. Zocor 40 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
4. Ultram 50 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.  
5. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
6. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a day.  
7. CALCIUM 500+D 500 (1,250)-200 mg-unit Tablet Sig: One (1) 
Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Transient ischemic attack (TIA)

Secondary:
Hypertension
Hyperlipidemia
Diabetes
Vertigo

 
Discharge Condition:
Improved; no abnormalities.

 
Discharge Instructions:
You have been in the hospital for a small stroke. Continue your 
home medications including aspirin and a cholesterol lowering 
medication to prevent strokes.

Please follow up with Dr. ___ Dr. ___ as scheduled.

Take all medications as prescribed. Call your doctor if you have 
any side effects from the medications, including muscle aches, 
change in color of your eyes or skin, abdominal pain, rash, 
nausea, vomiting, or any other concerning symptoms.

Call your doctor or go to the emergency room if you have any 
recurrence of your weakness, or if you have any new symptoms 
such as difficulty speaking, change in ability to think, loss of 
consciousness, other weakness, numbness, or tingling, change in 
your gait or vision, or any other concerning symptoms.
 
Followup Instructions:
___